Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:6]1([H:7])[C:8][O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][C:10]([H:11])[H:12],0.74148792375
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.04228606846
[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.14044710162
[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.9775661606
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],1.97947929936
[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.44211530215
[C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.15699120508
[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:4][C:5]#[C:6][O:7][C:8]([H:9])[H:10].[H:3],2.54926450616
[O:1]=[C:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],0.491553989581
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-5.1456602101
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4],2.63609405464
[O:1]=[C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])[H:6].[O:1]=[C:2]([C:3][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],7.780425965960001
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.02576660847
[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.73598160852
[O:1][C@:2]([H:3])([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],0.211966370825
[C:1][O:2][C:3]#[C:4].[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9],-3.74874628061
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]1[H:9],1.53269486279
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[H:8],3.1046725268299995
[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.50901617192
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.32355504587
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.98744686368
[H:3].[O:1]=[C:2]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-3.98448513289
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],-0.772854875341
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-0.7538999966
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:13]([H:14])([H:15])[H:16],1.81217944566
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],3.53280026195
[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2],2.6854021415900005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:10]([H:11])[H:12].[O:8][H:9],6.19572612031
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1],4.13932868878
